US09023865B2
N-(1-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfonamide (108 mg, 0.181 mmol) was cooled to 0° C. and charged with lithium bis(trimethylsilyl)amide (0.217 ml, 0.217 mmol) followed by iodomethahe (0.011 ml, 0.181 mmol) (˜2 drops). The reaction was allowed to warm to rt overnight. Quenched excess LiHMDS with methanol and evaporated solvents on the V-10. The residue was purified on silica, 10-50% DCM/EtOAc to provide N-(1-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)-2,2,2-trifluoroethyl)-N,2-dimethylpropane-2-sulfinamide (53 mg, 0.09 mmol, 48% yield) MS ESI Calc'd for C32H30ClF3N4OS [M+H]+ 611, found 611.

reactant | N-(1-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfonamide | 0.181 mmol, 108 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(C(F)(F)F)NS(=O)(=O)C(C)(C)C | C31H28ClF3N4O2S
reactant | lithium bis(trimethylsilyl)amide | 0.217 mmol, 0.217 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
product | N-(1-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)-2,2,2-trifluoroethyl)-N,2-dimethylpropane-2-sulfinamide | 0.09 mmol, 53 mg, 48% yield | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(C(F)(F)F)N(S(=O)C(C)(C)C)C | C32H30ClF3N4OS
